* C:\Users\sm1th.AD\Documents\LTspice\voltron_spice_110524.asc
M1 N006 sense_N 0 0 nmos45lp l=0.27um w=0.22um
VDD VDD 0 {vdd}
VDDby2 VDDby2 0 {vddhalf}
Vsp sense_P 0 PWL(34n {vdd} 34.05n 0 133n 0 133.005n {vdd}) Rser=100 Cpar=10fF
M2 bitline1 bitline0 NLAT 0 nmos45hp l=0.16um w={ntw}
M3 bitline0 bitline1 N006 0 nmos45hp l=0.16um w={ntw}
M4 bitline1 Eq bitline0 0 nmos45hp l=0.16um w={prentw}
M5 bitline0 Eq VDDby2 0 nmos45hp l=0.16um w={prentw}
M6 VDDby2 Eq bitline1 0 nmos45hp l=0.16um w={prentw}
M7 N001 ra0 N002 0 nmos45lp l=0.085um w=0.555um
Cmbit0 mb0 N003 24fF
M8 N007 ra3 mb3 0 nmos45lp l=0.085um w=0.055um
Cmbit1 mb3 0 24fF
Vra0 ra0 0 PWL(30n 0 30.5n 2.9 130n 2.9 130.5n 0) Rser=2048 Cpar=0.6pF
M9 ACT sense_p VDD VDD pmos45lp l=0.27um w=0.22um
M10 bitline1 bitline0 N004 VDD pmos45hp l=0.16um w={tw}
M11 bitline0 bitline1 ACT VDD pmos45hp l=0.16um w={tw}
Vsn sense_N 0 PWL(34n 0 34.005n {vdd} 133n {vdd} 133.005n 0) Rser=100 Cpar=10fF
Cmbit2 N001 0 144fF
Cmbit3 N005 0 144fF
R1 N001 bitline0 10000
R2 bitline1 N005 10000
R4 0 N003 30000
R3 N002 mb0 1000
R5 N005 N007 1000
R6 N004 ACT 25000
R7 NLAT N006 25000
M12 bitline0 EqNot VDDby2 VDD pmos45hp l=0.16um w={pretw}
M13 VDDby2 EqNot bitline1 VDD pmos45hp l=0.16um w={pretw}
Veq1 EqNot 0 PWL(0n 1.5 0.6n 0 25.6n 0 26.2n {vdd} 133n {vdd} 133.6n 0)
Veq2 Eq 0 PWL(0n 0 0.6n 1.5 25.6n 1.5 26.2n 0 133n 0 133.6n {vdd})
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\sm1th.AD\AppData\Local\LTspice\lib\cmp\standard.mos
.include cmosedu_models.txt
* Bitline to array0
* Bitline to array1
.ic v(bitline0)={vddhalf} v(bitline1)={vddhalf} v(mb0)={vdd}
.tran 230ns uic
* Word line in array 0
* Word line in array 1
* CMOS Sense Amplifier
* To pull the bit lines up to VDD, we have to add a PMOS sense amplifier or PSA. The signal ACT is\ncommon to all of the PSAs of the array (as NLAT for the NSA). The signal sense_P is active\nlow and indicates that the PSA is firing. the PSA is usually fired after the NSA because the \nmatching of the NMOS is better than tha matching of the PMOS.
* CMOS book, Circuit Design, Layout, and Simulation  by R. Jacob Baker
* Simulation Configuations
* Looping through different Vdd values
.step param X list 1 2 3 4
* // Select a few volts only
.param vdd=table(X, 1, 1.35V, 2, 1.1V, 3, 1.35V, 4, 1.1V)
.param vddhalf=table(X, 1, 0.675V, 2, 0.55V, 3, 0.675V, 4, 0.55V)
.param tw = 2.5um
.param ntw = 1um
.param pretw=2.5um
.param prentw=2.5um
.backanno
.end
